US08097628B2
(g) 4-[2-Hydroxy-1-(hydroxymethyl)ethyl]-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one
4-(2,2-Dimethyl-1,3-dioxan-5-yl)-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one (17.40 g, 59.7 mmol) was dissolved in THF (220 ml) to give a dark yellow solution. 1M HCl aq. (200 ml) was added (transient blue and green colours appeared in the solution) and the now light yellow solution was stirred at room temperature for 1 h. The mixture was concentrated to ca. 300 ml on a rotary evaporator using a cold water bath (some solid was precipitated during this procedure) then was stirred vigorously while solid sodium hydrogen carbonate was added in portions (caution: effervescence) until the mixture was ca. pH 8. The resulting yellow solid was collected by filtration with suction, washed with water (2×20 ml) and air-dried to give the title compound as an amorphous yellow solid (13.805 g, 91%).

reactant | 4-(2,2-Dimethyl-1,3-dioxan-5-yl)-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one | 59.7 mmol, 17.40 g | CC1(OCC(CO1)N1C2=C(N=CC1=O)C=CC(=N2)OC)C | C14H17N3O4
reactant | HCl | 1M, 200 ml | Cl | ClH
solvent | THF | 220 ml | C1CCOC1 | C4H8O
product | 4-[2-Hydroxy-1-(hydroxymethyl)ethyl]-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one | 13.805 g, 91% | OCC(CO)N1C2=C(N=CC1=O)C=CC(=N2)OC | C11H13N3O4
